US07652023B2
To a solution of (R)-N-((5-chloropyridin-2-yl)(3-fluoro-5-(trifluoromethyl)phenyl)methylene)-2-methylpropane-2-sulfinamide (1.09 g, 2.68 mmol) in anhydrous TBME (45 mL) at −78° C. under argon was added BF3Et2O (0.57 mL, 5.38 mmol). After 5 min, benzylmagnesium grignard (5.38 mL, 5.38 mmol, 1.0M in ether) was added dropwise with stirring. After 40 min, LCMS indicated that the reaction was complete and the cold solution was quenched with saturated NaCl (ca 20 mL), transferred to a separation funnel and the organic phase extracted with EtOAc (3×20 mL). The combined organic portions were dried, decanted, concentrated and purified by silica gel ISCO chromatography. 2×120 g cartridge columns were used 0-60% EtOAc/hexanes over 20 min. A trace amount of minor diastereomer eluted first followed by the major diastereomer (R)-N-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethyl)-2-methylpropane-2-sulfinamide (0.97 g, 72% yield). Rf 0.4 (Hexane:EtOAc 2:1) LCMS: 2.15 min [M+1] 499.1 (2 min gradient, MeOH/H2O 0.1% TFA); HPLC: 4.15 min (4 min gradient, MeOH/H2O 0.2% PPA); Purity 99%; NMR: 400 MHz 1H (CDCl3) 8.65 ppm, d, 1H, J=2.6 Hz; 7.62 ppm, dd, 1H, J=2.6 and J=8.8 Hz; 7.36 ppm, 4H, m; 7.29 ppm, 1H, m; 7.24 ppm, 1H, m; 7.14 ppm, 2H, m; 6.99 ppm, 1H, d, J=10.1 Hz; 6.81 ppm, 1H, d, J=6.6 Hz; 4.09 ppm, 1H, d, J=13.2 Hz; 3.69 ppm, 1H, d, J=13.2 Hz; 1.18 ppm, 9H, s.

reactant | (R)-N-((5-chloropyridin-2-yl)(3-fluoro-5-(trifluoromethyl)phenyl)methylene)-2-methylpropane-2-sulfinamide | 2.68 mmol, 1.09 g | ClC=1C=CC(=NC1)C(=N[S@](=O)C(C)(C)C)C1=CC(=CC(=C1)C(F)(F)F)F | C17H15ClF4N2OS
reactant | benzylmagnesium | C(C1=CC=CC=C1)[Mg]
solvent | TBME | 45 mL | CC(C)(C)OC | C5H12O
solvent | ether | CCOCC | C4H10O
product | (R)-N-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethyl)-2-methylpropane-2-sulfinamide | 0.97 g, 72% yield | ClC=1C=CC(=NC1)[C@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)C(F)(F)F)F)N[S@](=O)C(C)(C)C | C24H23ClF4N2OS
